US08865736B2
[2-(4-Methoxy-phenyl)-thiazol-4-yl]-methanol
To an ice-cold suspension of LAH (0.08 g, 2.07 mmol) in 10 ml of anhydrous THF was added a solution of 2-(4-Methoxy-phenyl)-thiazole-4-carboxylic acid ethyl ester (0.26 g, 0.98 mmol) in 5 ml of THF. The reaction mixture was heated up to 60° C. for 1 h. After the completion of the reaction mixture (TLC monitoring), the reaction mixture was cooled to 0° C., water (2.0 ml) was added followed by the addition of 15% NaOH solution (2 mL) and finally 4 ml of water. The resulting solution was filtered through celite bed and concentrated under reduced pressure; water (25 mL) was added and extracted with ethyl acetate (3×50 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated to give the desired product (0.14 g, 64%).

reactant | LAH | 2.07 mmol, 0.08 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-(4-Methoxy-phenyl)-thiazole-4-carboxylic acid ethyl ester | 0.98 mmol, 0.26 g | C(C)OC(=O)C=1N=C(SC1)C1=CC=C(C=C1)OC | C13H13NO3S
reactant | water | 2.0 ml | O | H2O
reactant | NaOH | 2 mL | [OH-].[Na+]
reactant | water | 4 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | [2-(4-Methoxy-phenyl)-thiazol-4-yl]-methanol | 0.14 g, 64% | COC1=CC=C(C=C1)C=1SC=C(N1)CO | C11H11NO2S
